Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Penicillins / Ibuprofen / Tylenol
 
Attending: ___.
 
Chief Complaint:
Respiratory Arrest
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is a ___ yo woman with hx of bipolar, polysubstance abuse, 
seizure d/o, fibromyalgia, and Hep C who was brought to the ED 
for respiratory arrest related to possible accidental IV heroin 
and cocaine overdose. Per ED report she was with friends abusing 
IV drugs (she states she used $50 worth of cocaine IV and 20mg 
of methadone earlier in the day but denies heroin) when last 
night she lost conciousness and stopped breathing. She states 
she also remembers vomiting. She was recently hospitalized at 
___ for seizures and post-ictal hallucinations 2 
weeks ago.  
.  
In the ED, initial vs were: 99.2 128 139/80 14 99% RA. She was 
given 2 mg narcan to which she responded rapidly. CXR was 
significant for possible aspiration in left lower lobe and CTA 
was negative for PE but also suspicious for aspiration. She was 
given an albuterol neb and started on levofloxacin 750mg plus 
azithromycin 250mg and recieved 3L of NS. She was persistently 
tachycardic in the 100-110's and hypoxic dropping to 80's and at 
one point 60's on RA but was mentating well.
.  
On the floor, she is calm and cooperative but denies any use of 
IV medications or other consumptions prior to losing 
conciousness. She is unsure if she might have had a seizure. She 
denies specific complaints.  

 
Past Medical History:
chronic fatigue
fibromyalgia
chronic abdominal pain
migraines
juvenile rheumatoid arthritis
sleep disorder
seizure disorder
hepatitis C infection
substance abuse
asthma
PTSD
bipolar disorder
ADHD 
Depression
Hypothyroidism

 
Social History:
___
Family History:
 Significant for mom's side having hyperlipidemia, hypertension, 
Alzheimer's disease, ovarian cancer.  Her father's side has 
hypertension, Alzheimer's disease, epilepsy, diabetes.  No one 
has gastroenterology or liver problems. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
.
Vitals: T: 98 BP: 128/52 P: 55 R: 20 O2: 99%2LNC  
General: Alert, oriented, no acute distress but somewhat anxious 
 
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, mild rales at left 
base  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly tender RLQ, bowel sounds quiet, no rebound 
tenderness or guarding   
Ext: Warm, well-perfused, 2+ pulses
Neuro: Pupils mildly sluggish, CNII-XII grossly intact, no focal 
motor or sensory deficits  
.
DISCHARGE PHYSICAL EXAM:
.
Vitals: T: 98.6 BP: 132/64 P: 72 R: 20 O2: 97%RA after coughing  

General: Alert, oriented, no acute distress but somewhat anxious 
 
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, mild rales at left 
base  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly tender RLQ, bowel sounds quiet, no rebound 
tenderness or guarding   
Ext: Warm, well-perfused, 2+ pulses
Neuro: Pupils mildly sluggish, CNII-XII grossly intact, no focal 
motor or sensory deficits  
 
Pertinent Results:
ADMISSION LABS:
.
___ 01:40AM BLOOD WBC-13.8*# RBC-3.90* Hgb-12.5 Hct-36.0 
MCV-92 MCH-32.0 MCHC-34.7 RDW-13.3 Plt ___
___ 01:40AM BLOOD Neuts-84.8* Lymphs-10.7* Monos-3.5 
Eos-0.5 Baso-0.4
___ 01:40AM BLOOD Plt ___
___ 01:40AM BLOOD ___ PTT-26.2 ___
___ 01:40AM BLOOD Glucose-236* UreaN-11 Creat-1.2* Na-139 
K-3.8 Cl-104 HCO3-25 AnGap-14
___ 07:03PM BLOOD Calcium-8.6 Phos-1.8*# Mg-1.8
___ 01:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS
___ 10:36AM BLOOD pO2-61* pCO2-60* pH-7.27* calTCO2-29 Base 
XS-0 Comment-FCOHGB ADD
___ 10:36AM BLOOD O2 Sat-87 COHgb-3
.
PERTINENT LABS:
.
___ 01:40AM BLOOD WBC-13.8*# RBC-3.90* Hgb-12.5 Hct-36.0 
MCV-92 MCH-32.0 MCHC-34.7 RDW-13.3 Plt ___
___ 01:40AM BLOOD Glucose-236* UreaN-11 Creat-1.2* Na-139 
K-3.8 Cl-104 HCO3-25 AnGap-14
___ 10:36AM BLOOD pO2-61* pCO2-60* pH-7.27* calTCO2-29 Base 
XS-0 Comment-FCOHGB ADD
___ 01:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS
.
DISCHARGE LABS:
.
___ 06:30AM BLOOD WBC-8.5 RBC-3.93* Hgb-12.4 Hct-35.7* 
MCV-91 MCH-31.5 MCHC-34.6 RDW-12.9 Plt ___
___ 06:30AM BLOOD Plt ___
.
PERTINENT MICRO: None
.
PERTINENT IMAGING:
.
___ CTA
IMPRESSION: 
1. No pulmonary embolism 
2. Left upper and lower lobe aspiration. 
.
CXR PA&Lateral (___):
Cardiomediastinal contours are unchanged. There are persistent 
low lung 
volumes. The right lung is clear. There is no pneumothorax. 
There is 
persistent opacity in the left lower lobe ; this could be due to 
atelectasis 
or aspiration. Left pleural effusion is small. 
.
 
Brief Hospital Course:
Pt is a ___ yo woman with hx of bipolar, polysubstance abuse, 
seizure d/o, fibromyalgia, and Hep C who was brought to the ED 
for respiratory arrest related to possible accidental IV heroin 
and cocaine overdose with possible aspiration.  
.
ACTIVE DIAGNOSES:
.
#Respiratory Arrest/Possible Accidental Drug Overdose: Ms. 
___ was admitted for respiratory arrest following an episode 
of IV and oral drug abuse. She denies use of IV narcotics or 
other substances just prior to her repiratory arrest but 
describes using oral methadone and IV cocaine earlier in the 
day. According to EMS and ED reports she was responsive to 
narcan reversal. She was treated with oxygen and her outpt 
doxepin was held to prevent sedation at night. She was visited 
by an elderly-appearing man named ___ who was apparently with 
her during the arrest and administered mouth-to-mouth. Overnight 
she was caught smoking a cigarette in her room and a search 
conducted by security revealed several baggies of marijuana and 
other drug paraphernalia which was confiscated. She had no 
repeat episodes of respiratory arrest, decreased mental status, 
or other concerning symptoms prior to discharge. She was advised 
not to mix her highly sedating outpatient medication regimen 
(which was confirmed with both her psychiatrist and PCP office 
by phone) with any recreational drugs. She was seen by the 
social worker to help her with her chronic substance 
abuse/dependence issues and was given the contact information 
and instructed to call her PCP and psychiatrist for ___ 
appointments following discharge which she agreed to do.
.
#Aspiration Pneumonitis/Pneumonia: Ms. ___ and ___ friend 
reported significant vomiting prior to her respiratory arrest 
(but no seizure-like activity that is familiar to them). On 
admission she had persistent mild hypoxia, leukocytosis, CXR and 
CT findings c/w aspiration, cough productive of reddish-brown 
sputum, but no fevers. She was started on an oral course of 
clindamycin for the possibility of early aspiration pneumonia in 
the context of aspiration pneumonitis.  
.
CHRONIC DIAGNOSES:
.
#Seizure D/O: Pt with seizure d/o with occasional post-ictal 
psychosis. Most recently 2 weeks ago requiring hospitalization 
at ___. This issue remained stable during this 
admission and she was continued on her home gabapentin as 
prescribed by Dr. ___ at ___.
.
#Bipolar Depression/Anxiety: This issue remained stable and she 
was continued on her home xanax, cymbalta, and mirtazapine as 
prescribed by her psychiatrist Dr. ___ in ___.
.
#Fibromyalgia: Stable and contniued on home tizanidine.
.
#Hypothyroidism: Stable and continued on her home levothyroxine.
.
#Gastritis: Stable and continued on home omeprazole
.
#Migraines: Stable and continued on her home compazine PRN.
.
TRANSITIONAL ISSUES:
.
This patient presents significant challenges regarding her poor 
behavior and conflicting accounts of what happened to her prior 
to arriving on the floor. She was discharged on a 7-day course 
of clindamycin for aspiration pneumonia with specific 
instructions not to continue using recreational drugs given her 
near-fatal event and currently sedating medication regimen. She 
was given the numbers to her PCP and psychiatrist and 
instructions to set up ___ appointments for soon after 
discharge.
 
Medications on Admission:
Cymbalta 60mg PO daily
Neurontin 600mg PO TID
Omeprazole 20 mg daily
Compazine 10mg Q6hrs PRN
Levothyroxine 50mcg daily 
Remeron 30 mg PO QHS
Xanax 1mg PO TID
Adderall 30 mg TID
Doxepin 50mg ___ tabs QHS
Sumatriptan PRN
Tizanidine

 
Discharge Medications:
1. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for migraines.  
5. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. alprazolam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day) as needed for anxiety.  
7. tizanidine 2 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
8. mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
9. sumatriptan succinate 25 mg Tablet Sig: One (1) Tablet PO As 
needed as needed for headache.  
10. clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO Q8H 
(every 8 hours) for 7 days: Please take 1 pill three times daily 
for 7 days.
Disp:*21 Capsule(s)* Refills:*0*
11. Adderall 30 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
12. doxepin 50 mg Capsule Sig: One (1) Capsule PO at bedtime.  
13. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Respiratory Arrest
-Aspiration Pneumonia
-Polysubstance Abuse
Secondary:
-Seizure d/o NOS
-Fibromyalgia
-Migraines
-Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ for 
respiratory arrest likely related to an aspiration event which 
was likely caused by your sedating medications and recreational 
drug use. You were treated with narcan, oxygen, nebulizers, and 
antibiotics and your condition rapidly improved.
.
The following changes have been made to your medications:
-Start Clindamycin 300mg by mouth three times daily for 
aspiration pneumonia; please take this for 7 days.
.
With regards to your outpatient medications, we don't recommend 
taking your current medications in their current combinations 
with the addition of illicit substances. As we discussed, taking 
your medications along with narcotics, stimulants, or other 
street drugs is extremely dangerous and can even be fatal. For 
this reason, we recommend continued close ___ with your 
psychiatrist and your primary care doctor.
 
Followup Instructions:
___